US07145012B2
Preparation of Intermediate 2-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-cyclopentylamino-ethyl)-1H-imidazole-4-carboxylic acid (I-5j)
To a solution of 2-(4-chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-cyclopentylamino-ethyl)-1H-imidazole-4-carboxylic acid ethyl ester I-5i (22 mg, 0.46 mmol) in absolute EtOH (2 ml) was added 1N KOH (500 μl). The reaction mixture was heated to 85° C. for 4 hours and then was concentrated to a quarter fraction of the original volume. The pH of the solution was adjusted to approximately 3.5 using 10% HCl. The aqueous ethanolic solution was concentrated to dryness to give the I-5j as a solid (20 mg): +APCI MS (M+1) 444.4.

reactant | 2-(4-chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-cyclopentylamino-ethyl)-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1CCNC1CCCC1)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C25H27Cl2N3O2
reactant | KOH | 1N, 500 μl | [OH-].[K+]
solvent | EtOH | 2 ml | CCO | C2H6O
product | 2-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-cyclopentylamino-ethyl)-1H-imidazole-4-carboxylic acid | 20 mg | ClC1=CC=C(C=C1)C=1N(C(=C(N1)C(=O)O)CCNC1CCCC1)C1=C(C=CC=C1)Cl | C23H23Cl2N3O2
